US05786371
1 g 4-nitro-2,3,5,6-tetrachloropyridine, 0.65 g 4-aminomethylpiperidine and 20 ml absolute dioxane were stirred for 1 hour at room temperature. Subsequently the dioxane was removed by distillation, the residue was admixed with water, separated from undissolved material and the aqueous phase was extracted several times with dichloromethane. After drying and evaporating the solvent, the residue can be crystallized from a small amount of diethyl ether. 0.3 g 4-(2,3,5,6-tetrachloropyridin-4-ylaminomethyl)pyridine is obtained as colourless crystals. TLC (mobile solvent: toluene/dioxane/water 90:20:0.2), Rf=0.8.

reactant | 4-nitro-2,3,5,6-tetrachloropyridine | 1 g | [N+](=O)([O-])C1=C(C(=NC(=C1Cl)Cl)Cl)Cl | C5Cl4N2O2
reactant | 4-aminomethylpiperidine | 0.65 g | NCC1CCNCC1 | C6H14N2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-(2,3,5,6-tetrachloropyridin-4-ylaminomethyl)pyridine | 0.3 g | ClC1=NC(=C(C(=C1Cl)NCC1=CC=NC=C1)Cl)Cl | C11H7Cl4N3
